US06063782
Methyl 1-cyclohexylmethyl-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as an orange oil in 79.60% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and cyclohexylmethyl bromide.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
product | Methyl 1-cyclohexylmethyl-3-formyl-4,5-dimethylpyrrole-2-carboxylate | C1(CCCCC1)CN1C(=C(C(=C1C)C)C=O)C(=O)OC | C16H23NO3
